US07329658B2
Preparation of Intermediate 7-(2-Chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one (I-1A-1c)
To an ethanolic solution of sodium ethoxide, generated by portionwise addition of sodium metal (10.5 g, 455 mmol) to stirred ethanol (450 ml), was added N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine, acetate salt (I-1A-1b; 13.4 g, 45.5 mmol) in one portion. Diethylcarbonate (44.1 ml, 364 mmol) was added, dropwise, and the mixture was heated to reflux, overnight. After cooling to room temperature, the reaction was concentrated, in vacuo, and then extracted with ethyl acetate from water, adjusted to pH 6 with 3 M aqueous HCL. The combined organic layers were washed with brine, dried (MgSO4), filtered, and then concentrated, in vacuo, to afford the crude product as an off-white solid (11.0 g). The solids were triturated from ethyl acetate (100 ml), the supernate was decanted away, the solids were washed with additional ethyl acetate (100 ml) and then dried, in vacuo, to afford I-1A-1c as a colorless solid (10.0 g, 84%): +APcI MS (M+1) 261.2; 1H NMR (400 MHz, CD3OD) δ 7.84-7.81 (m, 1H), 7.54-7.51 (m, 1H), 7.44-7.38 (m, 2H), 6.77 (s, 1H), 2.42 (s, 3H).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 455 mmol, 10.5 g | [Na] | Na
reactant | N-[5-(2-chlorophenyl)-2H-pyrazol-3-yl]-acetamidine, acetate salt | 45.5 mmol, 13.4 g | C(C)(=O)O.ClC1=C(C=CC=C1)C=1C=C(NN1)NC(C)=N
reactant | Diethylcarbonate | 364 mmol, 44.1 ml | C(C)OC(OCC)=O | C5H10O3
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 7-(2-Chlorophenyl)-2-methyl-3H-pyrazolo[1,5-a][1,3,5]triazin-4-one | 10.0 g, 84% | ClC1=C(C=CC=C1)C1=NN2C(N=C(NC2=O)C)=C1 | C12H9ClN4O
